US07553967B2
Synthesis of 1-(4-chlorobenzoyl)-6-methyl-1,2-dihydroquinoline-2-carbonitrile
To a biphasic mixture of 6-methylquinoline (1.0 g) in dichloromethane (9 mL) and potassium cyanide (1.37 g) in water (4 mL) was added 4-chlorobenzoyl chloride (1.78 mL). The reaction mixture was stirred at ambient conditions overnight. The reaction mixture was then filtered and the filtrate washed successively with water, 1N hydrochloric acid, 1N sodium hydroxide solution and water. The organic layer was dried over sodium sulfate, filtered and concentrated in vacuo. The crude product was purified by liquid chromatography (gradient elution of acetonitrile (0.02% trifluoroacetic acid)/water (0.02% trifluoroacetic acid) through a reverse phase C 18 column) to give the titled compound (118 mg product, 5% yield) as a foam. (M+H)+−309.

reactant | 6-methylquinoline | 1.0 g | CC=1C=C2C=CC=NC2=CC1 | C10H9N
reactant | potassium cyanide | 1.37 g | [C-]#N.[K+]
reactant | 4-chlorobenzoyl chloride | 1.78 mL | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | dichloromethane | 9 mL | ClCCl | CH2Cl2
solvent | water | 4 mL | O | H2O
product | 1-(4-chlorobenzoyl)-6-methyl-1,2-dihydroquinoline-2-carbonitrile | 118 mg, 5% yield | ClC1=CC=C(C(=O)N2C(C=CC3=CC(=CC=C23)C)C#N)C=C1 | C18H13ClN2O
